US04824892
97 g (0.2 mole) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol were esterified analogously to Example 1 with 103 g (1.2 moles) of methacrylic acid. Crystallization from ethanol gave 86 g (78 percent of theory) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl methacrylate in the form of colorless crystals having a melting point of 138° to 139° C. and a purity of 99 percent (HPLC). The UV spectrum gave two absorption maxima at wave lengths of 287 nm (extinction 0.517; extinction coefficient 28,570) and 324 nm (extinction 0.333; extinction coefficient 18,400).

reactant | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol | 0.2 mole, 97 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC(COC2=CC(=C(C=C2)C(C2=CC=CC=C2)=O)O)O)C=C1)O | C29H24O7
reactant | methacrylic acid | 1.2 moles, 103 g | C(C(=C)C)(=O)O | C4H6O2
product | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl methacrylate | 86 g, 78 percent | C(C(=C)C)(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C33H28O8
